US04738972
2-Benzyl-6-bromo-3,4-dihydro-1(2H)-naphthalenone
Under dry N2, diisopropylamine (1.7 ml, 0.012 mol) was dissolved in tetrahydrofuran (20 ml) and cooled to -78° C. Butyl lithium (6.88 ml of 1.6 M in hexane, 0.011 mol) was added, and the mixture stirred at -20° C for 0.5 hour and then recooled to -78° C. 6-Bromo-3,4-dihydro-1(2H)-naphthalenone (2.25 g, 0.010 mol; J. Am. Chem. Soc. v. 102, p. 7920, 1980), dissolved in tetrahydrofuran (10 ml) was added, the mixture warmed to -20° C. over 0.5 hour and stirred at that temperature for 15 minutes. Finally benzyl bromide (1.3 ml, 0.011 mol) was added, the mixture warmed over 1 hour to ambient temperature, and stirred at that temperature for 16 hours. The reaction was quenched with two volumes of 10% HCl and extracted with 150 ml ether. The organic layer was washed with 100 ml saturated brine, dried (MgSO4), stripped in vacuo, and the residue chromatographed on silica gel using 1:1 hexane:CH2Cl2 as eluant, monitoring by tlc (1:2 hexane:CH2CL2). Recovered was 380 mg of bis-benzylated product (Rf 0.58), 750 mg of title product (Rf 0.50) and 1.1 g of starting material (Rf 0.28), suitable for recycling.

reactant | diisopropylamine | 0.012 mol, 1.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | Butyl lithium | 0.011 mol, 1.6 M, 6.88 ml | C(CCC)[Li]
reactant | 6-Bromo-3,4-dihydro-1(2H)-naphthalenone | 0.010 mol, 2.25 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | benzyl bromide | 0.011 mol, 1.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-6-bromo-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)C1C(C2=CC=C(C=C2CC1)Br)=O | C17H15BrO
